US07141596B2
Step 1. Synthesis of (2S)-2-[(benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoic acid
To a solution of methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoate (52.0 mg, 0.0990 mmol) in toluene (1.0 mL) and 1,4-dioxane (1.0 mL) was added phenylboronic acid (14.5 mg, 0.119 mmol), 2 M sodium carbonate in water (0.30 mL) and tetrakis(triphenylphosphine)palladium(0) (6 mg, 0.005 mmol) under an atmosphere of nitrogen. The resulting mixture was heated at 100° C. overnight. The reaction solution was filtered, and purified by preparative LCMS to afford product as a white solid (18 mg, 38%). 1H NMR (400 MHz, CD3OD): δ 7.28 (m, 13H), 5.03 (m, 1H), 4.47 (m, 1H), 3.26 (m, 3H), 3.00 (m, 1H). LCMS found for C26H25N2O7S (M+H)+: m/z=509.

reactant | methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoate | 0.0990 mmol, 52.0 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br | C21H21BrN2O7S
reactant | phenylboronic acid | 0.119 mmol, 14.5 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.30 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-2-[(benzyloxy)carbonyl]amino-3-[6-(1,1-dioxido-3-oxoisothiazolidin-5-yl)biphenyl-3-yl]propanoic acid | 18 mg, 38% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC=1C=C(C(=CC1)C1CC(NS1(=O)=O)=O)C1=CC=CC=C1 | C26H24N2O7S
